US04559403
To a stirred slurry of 11 g of lithium aluminum hydride in 250 ml anhydrous THF under nitrogen was added dropwise a solution of 43.6 g of 2-[bis(phenylmethyl)amino]-N-(2-methoxyphenyl)acetamide in 500 ml anhydrous tetrahydrofuran and stirred overnight at room temperature. After cooling to 0°, the mixture was treated cautiously in succession with 50 ml of water. The granular precipitate was separated by filtration and washed several times with methylene chloride. The filtrate was evaporated to dryness, the residue dissolved in either and the organic phase extracted with 3 N hydrochloric acid. the water phase was made alkaline with 3 N sodium hydroxide and the base extracted with methylene chloride. The organic layer was washed with water, dried over magnesium sulfate and evaporated at reduced pressure. The crude syrup (36.9 g) was chromatographed on silica gel column packed in methylene chloride. Elution with methylene chloride provided N,N-dibenzyl-N'-(2-methoxyphenyl)ethylenediamine (22.8 g) in the form of an oil.

reactant | lithium aluminum hydride | 11 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-[bis(phenylmethyl)amino]-N-(2-methoxyphenyl)acetamide | 43.6 g | C1(=CC=CC=C1)CN(CC(=O)NC1=C(C=CC=C1)OC)CC1=CC=CC=C1 | C23H24N2O2
reactant | water | 50 ml | O | H2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N,N-dibenzyl-N'-(2-methoxyphenyl)ethylenediamine | 22.8 g | C(C1=CC=CC=C1)N(CCNC1=C(C=CC=C1)OC)CC1=CC=CC=C1 | C23H26N2O
